US06046214
tert-Butyl 3-((1R,2S,5R)-2-isopropyl-5-methyl-1-cyclohexyloxy)acetoxymethyl-4,5-epoxypiperidine-1-carboxylate (0.25 g, 0.59 mmol) and 10% aqueous potassium hydroxide were refluxed for 3h. The reaction mixture was evaporated to dryness in vacuo and purified on a silica gel column (Eluent: isopropyl alkohol /26% ammonium hydroxide (3/1)) to give 5-hydroxymethyl-3,4-piperidinediol as an oil (Yield: 56 mg, 65%).

reactant | tert-Butyl 3-((1R,2S,5R)-2-isopropyl-5-methyl-1-cyclohexyloxy)acetoxymethyl-4,5-epoxypiperidine-1-carboxylate | 0.59 mmol, 0.25 g | C(C)(C)[C@H]1[C@@H](C[C@@H](CC1)C)OCC(=O)OCC1CN(CC2C1O2)C(=O)OC(C)(C)C | C23H39NO6
reactant | potassium hydroxide | [OH-].[K+]
product | 5-hydroxymethyl-3,4-piperidinediol | Yield: 56 mg, 65% | OCC1C(C(CNC1)O)O | C6H13NO3
